US07034039B2
To a suspension of 6-benzyloxy-4-(2-fluorophenyl)-3-hydroxymethyl-2-isobutyl-1(2H)-isoquinolinone (4.31 g, 10 mmol) in toluene (50 mL) was added thionyl chloride (1.5 mL, 20 mmol). The obtained mixture was refluxed under heating for 2 h. The reaction mixture was poured into saturated aqueous sodium hydrogencarbonate solution and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give 6-benzyloxy-3-chloromethyl-4-(2-fluorophenyl)-2-isobutyl-1(2H)-isoquinolinone (4.29 g, 95.3%) as crystals.

reactant | 6-benzyloxy-4-(2-fluorophenyl)-3-hydroxymethyl-2-isobutyl-1(2H)-isoquinolinone | 10 mmol, 4.31 g | C(C1=CC=CC=C1)OC=1C=C2C(=C(N(C(C2=CC1)=O)CC(C)C)CO)C1=C(C=CC=C1)F | C27H26FNO3
reactant | thionyl chloride | 20 mmol, 1.5 mL | S(=O)(Cl)Cl | Cl2OS
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 6-benzyloxy-3-chloromethyl-4-(2-fluorophenyl)-2-isobutyl-1(2H)-isoquinolinone | 4.29 g, 95.3% | C(C1=CC=CC=C1)OC=1C=C2C(=C(N(C(C2=CC1)=O)CC(C)C)CCl)C1=C(C=CC=C1)F | C27H25ClFNO2
